US05623073
STEP A: 2-Amino-3-(5-bromo-2-thenoylmethyl)-1-(2-piperidinoethyl)-benzimidazole hydrobromide
Add a solution of 5-bromo-2-bromoacetylthiophene (5.68 g, 20 mmol) in 30 ml of ether to a hot solution of 2-amino-1-(2-piperidinoethyl)-benzimidazole (4.88 g, 20 mmol) in 150 ml of acetone. Stir and maintain at room temperature for five hours. Suction-filter the precipitate, wash with acetone and then with ether to obtain the title compound.

reactant | 5-bromo-2-bromoacetylthiophene | 20 mmol, 5.68 g | BrC1=CC=C(S1)C(CBr)=O | C6H4Br2OS
reactant | 2-amino-1-(2-piperidinoethyl)-benzimidazole | 20 mmol, 4.88 g | NC1=NC2=C(N1CCN1CCCCC1)C=CC=C2 | C14H20N4
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2-Amino-3-(5-bromo-2-thenoylmethyl)-1-(2-piperidinoethyl)-benzimidazole hydrobromide | Yield: 82% | Br.NC1N(C2=C(N1CCN1CCCCC1)C=CC=C2)CC(C2=CC=C(S2)Br)=O | InChI=1S/C20H25BrN4OS.BrH/c21-19-9-8-18(27-19)17(26)14-25-16-7-3-2-6-15(16)24(20(25)22)13-12-23-10-4-1-5-11-23;/h2-3,6-9,20H,1,4-5,10-14,22H2;1H
